US09078444B2
A solution of 4-[3-Acetylsulfanyl-4,4,4-trifluoro-3-(3,4,5-trichloro-phenyl)-butyryl]-2-methyl-benzoic acid tert-butyl ester (1.33 g) in aniline (13 mL) was stirred at room temperature for 3 hours. The mixture was quenched with a solution of hydrochloric acid (1N), extracted with ethyl acetate and washed with brine. The collected organic phases were dried over magnesium sulfate, filtered and the filtrate was evaporated under vacuo. The residue was purified by chromatography on silica gel (eluent: cyclohexane/dichloromethane) to give 2-Methyl-4-[4,4,4-trifluoro-3-mercapto-3-(3,4,5-trichloro-phenyl)-butyryl]-benzoic acid tert-butyl ester (950 mg).

reactant | 4-[3-Acetylsulfanyl-4,4,4-trifluoro-3-(3,4,5-trichloro-phenyl)-butyryl]-2-methyl-benzoic acid tert-butyl ester | 1.33 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(CC(C(F)(F)F)(C1=CC(=C(C(=C1)Cl)Cl)Cl)SC(C)=O)=O)C)=O | C24H22Cl3F3O4S
solvent | aniline | 13 mL | NC1=CC=CC=C1 | C6H7N
product | 2-Methyl-4-[4,4,4-trifluoro-3-mercapto-3-(3,4,5-trichloro-phenyl)-butyryl]-benzoic acid tert-butyl ester | 950 mg | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(CC(C(F)(F)F)(C1=CC(=C(C(=C1)Cl)Cl)Cl)S)=O)C)=O | C22H20Cl3F3O3S
